US06803457B1
2-Benzyloxy-5-ethynyl-benzoic acid benzyl ester
Tetra-butyl ammonium fluoride (2.97 mL of a 1 M solution in THF, 2.97 mmol) was added to a solution of 2-benzyloxy-5-(2-trimethylsilyl-ethynyl)-benzoic acid benzyl ester (1.07 g, 2.58 mmol) in THF (10 mL) at room temperature. After 30 minutes, the mixture was diluted with ether (20 mL) and washed with water (3×30 mL) and brine (1×30 mL), dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography (5% ethyl acetate/hexanes) to afford 687 mg (78%) product as a light orange oil. 1H NMR (400 MHz, CDCl3) δ 7.98 (d, 1H, J=2 Hz); 7.52 (dd, 1H, J=9.1, 1 Hz); 7.38 (m, 10H); 6.95 (d, 1H, J=9.1 Hz); 5.35 (s, 2H); 5.19 (s, 2H); 3.0 (s, 1H).

reactant | Tetra-butyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-benzyloxy-5-(2-trimethylsilyl-ethynyl)-benzoic acid benzyl ester | 2.58 mmol, 1.07 g | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)C#C[Si](C)(C)C)OCC1=CC=CC=C1)=O | C26H26O3Si
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2-Benzyloxy-5-ethynyl-benzoic acid benzyl ester | 687 mg, 78% | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)C#C)OCC1=CC=CC=C1)=O | C23H18O3
